US07091362B2
172 g of 3,4-dichlorobenzonitrile, 200 g of dimethylsulfoxide, 69.6 g of potassium fluoride, and 3.95 g of (N,N-dimethylimidazolidino)tris-(diethylamino)phosphazenium chloride were placed in a 1 liter four-neck flask equipped with anchor stirrer, thermometer, and reflux condenser with bubble counter. The mixture was then heated with stirring to 170° C. and this temperature was maintained for 6 hours. The mixture was then cooled to room temperature, water was added to the reaction mixture in a volumetric ratio of 1:1, and the 3-chloro-4-fluorobenzonitrile that precipitated was isolated by filtration, washing, and drying. 3-Chloro-4-fluorobenzo-nitrile was obtained in a yield of 92% of theory.

reactant | 3,4-dichlorobenzonitrile | 172 g | ClC=1C=C(C#N)C=CC1Cl | C7H3Cl2N
reactant | potassium fluoride | 69.6 g | [F-].[K+]
solvent | dimethylsulfoxide | 200 g | CS(=O)C | C2H6OS
product | 3-Chloro-4-fluorobenzo-nitrile | yield of 92% | ClC=1C=C(C#N)C=CC1F | C7H3ClFN
